US05324710
0.44 g of sodium hydride suspension (60% strength in mineral oil) is added to a stirred solution of 2.4 g of 2-trifluoromethylbenzylsulfonamide in 40 ml of dimethoxyethane and stirring is continued until the evolution of hydrogen is complete. A solution of 2-chloro-6-methylpyrimidine-4-carbonyl chloride (from 2.1 g of carboxylic acid, 20 ml of dioxane, [lacuna] drops of dimethylformamide and 2.1 g of thionyl chloride) in 20 ml of dimethoxyethane is rapidly added dropwise to this. The mixture is then stirred at room temperature for 3 h and worked up as described in Example 13. 1.4 g of 2-trifluoromethyl-N-[(2-chloro-6-methylpyrimidin-4-yl)carbonyl]benzylsulfonamide of melting point 198°-199° C. are obtained in this way.

reactant | sodium hydride | 0.44 g | [H-].[Na+]
reactant | 2-trifluoromethylbenzylsulfonamide | 2.4 g | FC(C1=C(CS(=O)(=O)N)C=CC=C1)(F)F | C8H8F3NO2S
reactant | hydrogen | [H][H] | H2
reactant | 2-chloro-6-methylpyrimidine-4-carbonyl chloride | 20 ml, 2.1 g | ClC1=NC(=CC(=N1)C(=O)Cl)C | C6H4Cl2N2O
solvent | dimethoxyethane | 40 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
product | 2-trifluoromethyl-N-[(2-chloro-6-methylpyrimidin-4-yl)carbonyl]benzylsulfonamide | 1.4 g | FC(C1=C(CS(=O)(=O)NC(=O)C2=NC(=NC(=C2)C)Cl)C=CC=C1)(F)F | C14H11ClF3N3O3S
